US08283354B2
2-Methoxy-6-methyl-benzoic acid (21.4 g, 0.129 mol) was refluxed for 3 hours in 230 mL thionyl chloride. Excess thionyl chloride was removed under reduced pressure. Co-evaporation of the residue with toluene gave 23.8 g of 2-methoxy-6-methyl-benzoyl chloride.

reactant | 2-Methoxy-6-methyl-benzoic acid | 0.129 mol, 21.4 g | COC1=C(C(=O)O)C(=CC=C1)C | C9H10O3
reactant | thionyl chloride | 230 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-methoxy-6-methyl-benzoyl chloride | 23.8 g | COC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO2
